US07414049B2
d) (RS)-2-Hydroxy-N-[(S)-1-(2-hydroxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
A solution of 26 mg of N-[(S)-1-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide in 2.0 ml of methanol was treated with 10 mg of palladium on carbon (10%) and stirred for 3 days under an atmosphere of hydrogen. During this period of time, the catalyst was replaced three times after filtration of the reaction mixture over Dicalit. For the final working-up, the reaction mixture was filtrated over Dicalit and the solvent evaporated under reduced pressure. After separation of mainly unchanged starting material by chromatography on silica gel using a gradient of heptane/ethyl acetate=100/0 to 20/80 as the eluent, 6 mg (29% of theory) of the title compound were obtained as a white foam; MS (m/e): 469 (M+H)+.

reactant | N-[(S)-1-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 26 mg | C(C1=CC=CC=C1)OCCN1C2=C(NC([C@H](C1)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)O)=O)=O)C=CC=C2 | C25H27F5N4O5
solvent | methanol | 2.0 ml | CO | CH4O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | (RS)-2-Hydroxy-N-[(S)-1-(2-hydroxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | OC(C(=O)N[C@@H]1C(NC2=C(N(C1)CCO)C=CC=C2)=O)(C(=O)NCC(C(F)(F)F)(F)F)C | C18H21F5N4O5
